US07691882B2
4-(2-Pyridin-2-yl-ethyl)benzaldehyde
To an ethyl acetate (100 mL) solution of 4-(2-pyridin-2-yl-ethyl)benzyl alcohol (3.16 g, 14.8 mmol) described in Manufacturing Example 93-1-4 was added activated manganese dioxide (45 g, 518 mmol), which was stirred for 4 hours at room temperature. The reaction mixture was filtered through a Celite pad, and washed with ethyl acetate (100 mL). The filtrate was concentrated under a reduced pressure to obtain the title compound (2.57 g, 82%).

reactant | 4-(2-pyridin-2-yl-ethyl)benzyl alcohol | 14.8 mmol, 3.16 g | N1=C(C=CC=C1)CCC1=CC=C(CO)C=C1 | C14H15NO
catalyst | manganese dioxide | 518 mmol, 45 g | [O-2].[O-2].[Mn+4]
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 4-(2-Pyridin-2-yl-ethyl)benzaldehyde | 2.57 g, 82% | N1=C(C=CC=C1)CCC1=CC=C(C=O)C=C1 | C14H13NO
